US06495549B1
Ethyl(2S)-1-(5-fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate
The title compound was prepared by a similar method to Preparation 2 from (2S)-2-(ethoxycarbonyl)piperidinium chloride [see J. Am. Chem. Soc. (1993), 115, 9925-9938] and 2-chloro-5-fluoro-1,3-benzoxazole [see J. Med. Chem. (1988), 31, 1719-1728]. The crude product was purified by column chromatography on silica gel eluting with a solvent system of 3:1, by volume, hexane:ethyl acetate, to afford ethyl(2S)-1-(5-fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate as an oil.

reactant | (2S)-2-(ethoxycarbonyl)piperidinium chloride | [Cl-].C(C)OC(=O)[C@H]1[NH2+]CCCC1
reactant | 2-chloro-5-fluoro-1,3-benzoxazole | ClC=1OC2=C(N1)C=C(C=C2)F | C7H3ClFNO
product | ethyl(2S)-1-(5-fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate | FC=1C=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)OCC)C1 | C15H17FN2O3
